US05508408
Example 20: 4-[3-(7-bromo-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
2 g of 3-(7-bromo-2-quinolinylmethoxy)aniline and 1.9 g of 2,2-diethylsuccinic acid anhydride (purified by distillation) are stirred in 28 ml of pyridine for 72 hours at 20° and concentrated by evaporation. The residue is suspended in 25 ml of 2N aqueous hydrochloric acid and the suspension is stirred for 30 min. at 20° and filtered. The precipitate is washed with water and crystallised from ethanol to give the title compound in the form of colourless crystals of m.p. 175°, IR (Nujol): inter alia 3600-2100, 3308, 1710, 1670, 1610, 1600, 1497 cm-1.

reactant | 3-(7-bromo-2-quinolinylmethoxy)aniline | 2 g | BrC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13BrN2O
reactant | 2,2-diethylsuccinic acid anhydride | 1.9 g | C(C)C1(C(=O)OC(C1)=O)CC | C8H12O3
solvent | pyridine | 28 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3-(7-bromo-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | BrC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C24H25BrN2O4
